US04466964
1 mole of 2-methylindoline is dissolved in 300 ml of toluene and 1 mole of methyl isocyanate is added, the temperature not rising above 25° C. The mixture is left to stand for 1 day and the resulting precipitate is then filtered off. N-Methylaminocarbonyl-2-methylindoline with a melting point of 158°-160° C. is obtained. Yield: 89% of theory.

reactant | 2-methylindoline | 1 mole | CC1NC2=CC=CC=C2C1 | C9H11N
reactant | methyl isocyanate | 1 mole | CN=C=O | C2H3NO
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | N-Methylaminocarbonyl-2-methylindoline | Yield: 89% | CNC(=O)N1C(CC2=CC=CC=C12)C | C11H14N2O
